US03972886
3-Butylthio-4-chloro-5-sulfamylbenzoic acid (1.8 g) in a saturated solution of hydrogen chloride in ethanol (40 ml) is stirred for 18 hours. The precipitate is collected by filtration and washed with ethanol and petroleum ether to yield ethyl 3-butylthio-4-chloro-5-sulfamylbenzoate with a melting point of 160° - 162°C.

reactant | 3-Butylthio-4-chloro-5-sulfamylbenzoic acid | 1.8 g | C(CCC)SC=1C=C(C(=O)O)C=C(C1Cl)S(N)(=O)=O | C11H14ClNO4S2
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 40 ml | C(C)O | C2H6O
product | ethyl 3-butylthio-4-chloro-5-sulfamylbenzoate | C(CCC)SC=1C=C(C(=O)OCC)C=C(C1Cl)S(N)(=O)=O | C13H18ClNO4S2
